US03932167
Preparation of 2-Benzylamino-4,6-bis-trichloromethyl-s-triazine
Benzylamine (3.21 g., 0.03 mole) is added to 2,4,6-tris(trichloromethyl)-s-triazine (13 g., 0.03 mole) in dry benzene (75 ml.). Triethylamine (3.24 g., 0.03 mole) is then added to the reaction mixture and the solution set aside for 3 days. Evaporation to a residual oil and crystallization from methanol-water (9:1) gives the product 10.7 g., 85%, m.p. 96.5°-97°.

reactant | Benzylamine | 0.03 mole, 3.21 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 2,4,6-tris(trichloromethyl)-s-triazine | 0.03 mole, 13 g | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)(Cl)Cl | C6Cl9N3
reactant | Triethylamine | 0.03 mole, 3.24 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | 2-Benzylamino-4,6-bis-trichloromethyl-s-triazine | 10.7 g | C(C1=CC=CC=C1)NC1=NC(=NC(=N1)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl | C12H8Cl6N4
